US07547786B2
5-Methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylic acid hydrochloride
To lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (3.00 g) was added 1N HCl in ethanol (36 mL), and the mixture was stirred at room temperature for 1 hour. The precipitated crystals were collected by filtration, and were washed with ethanol (9 mL). The wet crystal was dried at room temperature under reduced pressure, to thereby give 2.76 g of the title compound.

reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 3.00 g | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 36 mL | C(C)O | C2H6O
product | 5-Methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylic acid hydrochloride | 2.76 g | Cl.CN1CC2=C(CC1)N=C(S2)C(=O)O | InChI=1S/C8H10N2O2S.ClH/c1-10-3-2-5-6(4-10)13-7(9-5)8(11)12;/h2-4H2,1H3,(H,11,12);1H
